US06258824B1
40D. 4-(3-Chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-methyl]-1-methyl-1H-quinolin-2-one
To a suspension of 4-(3-chloro-phenyl)-6-(5-chloro-thiophene-2-carbonyl)-1-methyl-1H-quinolin-2-one (58 mg, 0.154 mmol) in MeOH (1 ml) was added sodium borohydride as solid (NaBH4, 7 mg, 0.185 mmol) at 0° C. The reaction mixture was stirred at 0° C. for one hour after which time it was partitioned between chloroform and water. The organic layer was washed with brine, dried over MgSO4 and concentrated under vacuum to give an off-white solid (49 mg, 78.5% yield).

reactant | 4-(3-chloro-phenyl)-6-(5-chloro-thiophene-2-carbonyl)-1-methyl-1H-quinolin-2-one | 0.154 mmol, 58 mg | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(=O)C=1SC(=CC1)Cl)C)=O | C21H13Cl2NO2S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | 1 ml | CO | CH4O
product | 4-(3-Chloro-phenyl)-6-[(5-chloro-thiophen-2-yl)-hydroxy-methyl]-1-methyl-1H-quinolin-2-one | 49 mg, 78.5% yield | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(O)C=1SC(=CC1)Cl)C)=O | C21H15Cl2NO2S
